US05283244
A mixture of 1 g of 4,5-di-(1-imidazolyl)-2-nitroaniline dihydrochloride, 5 ml of acetic acid, 5 ml of methanol and 0.1 g of 10% palladium-on-carbon was subjected to hydrogenation reaction. The reaction mixture was filtered and the filtrate was washed with hydrochloric acid and concentrated under reduced pressure. The concentrate was dissolved in 350 mg oxalic acid-6 ml of 4N-hydrochloric acid and the solution was subjected to dry distillation overnight. The resulting crystals were recovered by filtration and recrystallized from 4N-hydrochloric acid to provide 170 mg of 6,7-di-(1-imidazolyl)quinoxaline-2,3-(1H,4H)-dione dihydrochloride dihydrate.

reactant | 4,5-di-(1-imidazolyl)-2-nitroaniline dihydrochloride | 1 g | Cl.Cl.N1(C=NC=C1)C1=CC(=C(N)C=C1N1C=NC=C1)[N+](=O)[O-]
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
reactant | methanol | 5 ml | CO | CH4O
catalyst | palladium-on-carbon | 0.1 g | [Pd] | Pd
product | 6,7-di-(1-imidazolyl)quinoxaline-2,3-(1H,4H)-dione dihydrochloride dihydrate | 170 mg | O.O.Cl.Cl.N1(C=NC=C1)C=1C=C2NC(C(NC2=CC1N1C=NC=C1)=O)=O | InChI=1S/C14H10N6O2.2ClH.2H2O/c21-13-14(22)18-10-6-12(20-4-2-16-8-20)11(5-9(10)17-13)19-3-1-15-7-19;;;;/h1-8H,(H,17,21)(H,18,22);2*1H;2*1H2
